US06388146B1
First, 5.00 g of (R)-4′-(1-methylheptyloxy)-4-hydroxybiphenyl and 25 ml of pyridine were put in a 100 ml flask provided with a calcium chloride tube, and cooled to −20° C. Then, 5.25 g of trifluoromethanesulfonic anhydride was dropped into the mixture while being stirred. After the dropping, the resultant mixture was stirred at 0° C. for 24 hours. The resultant reaction solution was poured into water and then extracted with ether. The resultant ether layer was washed with 5% hydrochloric acid, further washed with a saturated brine, and dried with sodium sulfate. The solvent was then distilled off. The residue was purified by silica gel column chromatography (eluent:hexane), to obtain 7.04 g (Y: 97.3%) of (R)-4′-(1-methylheptyloxy)biphenyl-4-yl trifluoromethanesulfonate. The purity of the resultant compound was 99.5% as measured by GC.

reactant | (R)-4′-(1-methylheptyloxy)-4-hydroxybiphenyl | 5.00 g | C[C@H](CCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C20H26O2
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 5.25 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | O | H2O
product | (R)-4′-(1-methylheptyloxy)biphenyl-4-yl trifluoromethanesulfonate | 7.04 g, 97.3% | FC(S(=O)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)O[C@@H](CCCCCC)C)(F)F | C21H25F3O4S
